US07935722B2
1-[6-Cyano-9-(3-fluorobenzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-3-methyl-urea
Combine [6-cyano-9-(3-fluorobenzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-carbamic acid 4-nitrophenyl ester (Preparation 55) (306 mg, 0.63 mmol), methylamine hydrochloride (426 mg, 6.30 mmol), triethylamine (1.40 g, 1.93 mL, 13.9 mmol), and THF (30 mL). Stir the reaction mixture at room temperature for 18 h, then dilute with water (100 mL). Extract into EtOAc (3×65 mL), dry the combined organic portions (MgSO4), filter, and concentrate to give the crude product (310 mg) as a yellow oil. Purify the crude product on 40 g silica gel (50-100% (4% (2M NH3/MeOH)/CH2Cl2)/hexanes) to give 58 mg (24%) of the title compound as a yellow solid. MS (ES): m/z 377 (M+1); HPLC (Method B): Rt=3.22 min (98%).

reactant | [6-cyano-9-(3-fluorobenzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-carbamic acid 4-nitrophenyl ester | 0.63 mmol, 306 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(NC1CCC=2N(C3=CC=C(C=C3C2C1)C#N)CC1=CC(=CC=C1)F)=O | C27H21FN4O4
reactant | methylamine hydrochloride | 6.30 mmol, 426 mg | Cl.CN
reactant | triethylamine | 13.9 mmol, 1.93 mL, 1.40 g | C(C)N(CC)CC | C6H15N
reactant | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
product | 1-[6-Cyano-9-(3-fluorobenzyl)-2,3,4,9-tetrahydro-1H-carbazol-3-yl]-3-methyl-urea | 58 mg, 24% | C(#N)C=1C=C2C=3CC(CCC3N(C2=CC1)CC1=CC(=CC=C1)F)NC(=O)NC | C22H21FN4O
